US06352982B1
To a solution of 2-amino-3′-tert-butoxycarbonylaminomethyl-5-chlorobenzophenone (7 g) in methanol (70 ml) was added sodium borohydride (1.1 g), and the mixture was stirred for 30 minutes at room temperature. To the reaction mixture was added acetic acid ethyl ester (100 ml). The mixture was washed with water and dried over anhydrous MgSO4, followed by distilling off the solvent. The residue was purified by means of a silica gel column chromatography to give the object 2-amino-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol (6.9 g) as a colorless oily compound.

reactant | 2-amino-3′-tert-butoxycarbonylaminomethyl-5-chlorobenzophenone | 7 g | NC1=C(C(=O)C2=CC(=CC=C2)CNC(=O)OC(C)(C)C)C=C(C=C1)Cl | C19H21ClN2O3
reactant | sodium borohydride | 1.1 g | [BH4-].[Na+]
reactant | acetic acid ethyl ester | 100 ml | C(C)OC(C)=O | C4H8O2
solvent | methanol | 70 ml | CO | CH4O
product | 2-amino-5-chloro-α-(3-tert-butoxycarbonylaminomethylphenyl)benzyl alcohol | 6.9 g | NC1=C(C(C2=CC(=CC=C2)CNC(=O)OC(C)(C)C)O)C=C(C=C1)Cl | C19H23ClN2O3
